US07939613B2
Into a 500 ml round-bottomed flask were added 150 ml THF, 5 ml water, 2.2 g potassium carbonate, 6 ml diethyl amine, and 5 g p-bromobenzyl bromide. The resultant mixture was refluxed for 12 h. The mixture was then cooled to room temperature, into which 6 ml concentrated HCl was added, followed by the addition of 150 ml water. The mixture was extracted with 100 ml diethyl ether for three times. The diethyl ether solution was dried with anhydrous magnesium sulfate over night and then the magnesium sulfate was removed by filtration. Diethyl ether was evaporated and the raw product was purified by a silica gel column using hexane/chloroform mixture (1:1 by volume) as the eluent. (p-bromobenzyl)diethyl amine (BBDA) was obtained in 74% yield (3.6 g).

reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl amine | 6 ml | C(C)NCC | C4H11N
reactant | p-bromobenzyl bromide | 5 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | HCl | 6 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (p-bromobenzyl)diethyl amine | 74% yield | BrC1=CC=C(CN(CC)CC)C=C1 | C11H16BrN
